US04440566
2.53 g of metallic sodium were added to 100 ml of ethanol at room temperature. To this was then added 17.6 g of diethyl malonate, with stirring, and then 17.2 g of 6-ethylthio-3-hepten-2-one was added. The resulting mixture was then refluxed for four hours and then an aqueous sodium hydroxide solution, containing 9.5 g of sodium hydroxide in 75 ml of water, was added and the mixture refluxed for another two hours. The mixture was cooled to 50° C. and then acidified by the addition of concentrated hydrochloric acid. The mixture was then warm until decarboxylation was complete and then evaporated to a liquid residue. The residue was mixed with ethyl ether, washed with water, and evaporated to a brown liquid. The liquid was base, acid extracted affording 5-(2-ethylthiopropyl) cyclohexane-1,3-dione.

reactant | sodium | 2.53 g | [Na] | Na
reactant | diethyl malonate | 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 6-ethylthio-3-hepten-2-one | 17.2 g | C(C)SC(CC=CC(C)=O)C | C9H16OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 9.5 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 75 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(2-ethylthiopropyl) cyclohexane-1,3-dione | C(C)SC(CC1CC(CC(C1)=O)=O)C | C11H18O2S
